US07666888B2
1-{[5-(4-methoxyphenyl)-1H-pyrazol-4-yl]carbonyl}-5-methyl-3-phenylpyrrolidin-3-ol
A solution of 5-methyl-3-phenylpyrrolidin-3-ol (9 mg, 0.05 mmol) and triethylamine (28 μL, 0.2 mmol, 4 equ.) in DMF (0.2 mL) was added to a solution of 5-(4-methoxyphenyl)-1H-pyrazole-4-carboxylic acid (11 mg, 0.05 mmol, 1.2 equ.) and 1-propanephosphonic acid cyclic anhydride (70 μL, 0.115 mmol, 2.3 equ., 50% solution in ethyl acetate) in DMF (0.1 mL) at rt. The reaction mixture was stirred at 60° C. overnight. The crude product was purified by RP-HPLC. After evaporation of the solvents the product was dried in vacuum to yield the title compound (3 mg). MS (ESI, pos. ion) m/z: calcd for C22H23N3O3: 377.1739, found 377.1739.

reactant | 5-methyl-3-phenylpyrrolidin-3-ol | 0.05 mmol, 9 mg | CC1CC(CN1)(O)C1=CC=CC=C1 | C11H15NO
reactant | triethylamine | 0.2 mmol, 28 μL | C(C)N(CC)CC | C6H15N
reactant | 5-(4-methoxyphenyl)-1H-pyrazole-4-carboxylic acid | 0.05 mmol, 11 mg | COC1=CC=C(C=C1)C1=C(C=NN1)C(=O)O | C11H10N2O3
reactant | 1-propanephosphonic acid cyclic anhydride | 0.115 mmol, 70 μL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 1-{[5-(4-methoxyphenyl)-1H-pyrazol-4-yl]carbonyl}-5-methyl-3-phenylpyrrolidin-3-ol | 3 mg | COC1=CC=C(C=C1)C1=C(C=NN1)C(=O)N1CC(CC1C)(O)C1=CC=CC=C1 | C22H23N3O3
